US08497269B2
Step 1: 6-(4-Fluorophenylamino)phthalazin-1-ol
A mixture of 6-bromophthalazin-1-ol (1.00 g, 4.44 mmol), 4-fluorobenzenamine (0.642 g, 5.78 mmol), Pd(dppf)Cl2.CH2Cl2 (0.130 g, 0.178 mmol), and lithium bis(trimethylsilyl)amide (2.23 g, 13.3 mmol) in 2-methyltetrahydrofuran (10 mL) was heated at 95° C. in an oil bath for 24 h in a sealed tube. The mixture was cooled to RT, diluted with MeOH and filtered through a pad of Celite. The filtrate was concentrated over silica gel. The residue was purified using column chromatography (0-4% MeOH in CH2Cl2) to yield the title compound as a yellow crystalline solid. MS (ESI, pos. ion) m/z: 256.0 (M+1).

reactant | 6-bromophthalazin-1-ol | 4.44 mmol, 1.00 g | BrC=1C=C2C=NN=C(C2=CC1)O | C8H5BrN2O
reactant | 4-fluorobenzenamine | 5.78 mmol, 0.642 g | FC1=CC=C(C=C1)N | C6H6FN
reactant | CH2Cl2 | 0.178 mmol, 0.130 g | C(Cl)Cl | CH2Cl2
reactant | lithium bis(trimethylsilyl)amide | 13.3 mmol, 2.23 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | 2-methyltetrahydrofuran | 10 mL | CC1OCCC1 | C5H10O
solvent | MeOH | CO | CH4O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4-Fluorophenylamino)phthalazin-1-ol | FC1=CC=C(C=C1)NC=1C=C2C=NN=C(C2=CC1)O | C14H10FN3O
